Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
multiple falls at group home
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with a h/o psychosis admitted 
for falls over the past two days. Patient himself claims that 
people have been pushing him to the ground and beating him up. 
He denies blacking out or having palpitations or dizziness 
before the fall. Importantly, conversations with supervisor of 
the group home ___ ___ reveal that he has 
had some mechanical falls, but they were likely not result of 
being pushed.  Per ___, Mr. ___ has been more lethargic 
than usual. Also, she says that Mr. ___ administers his own 
medication without supervision and may not have been compliant 
in the past few weeks. 
Of note, pt did report "urine hurting" in the ED, which he later 
denied.  He also complained of tooth pain on bottom jaw where he 
has a chronically split tooth and cavity. Also lower bilateral 
abdominal pain. No back pain. Some recent constipation with last 
bowel movement 2 days ago. Frequently strains. No blood. No 
other focal symptoms. 
In the ED, initial VS were 106/65 hr 100 rr 18 sat 97/ra. He 
received 2LNS. Head CT, CXR, pelvis and lumbar spine films in 
the ED were negative. 

 
Past Medical History:
Psychosis 
Diabetes 
COPD 

 
Social History:
___
Family History:
Unknown to patient.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 98.1 117/62 97 18 96RA 
GENERAL: disheveled male, appears stated age, NAD, odd affect 
HEENT: Middle lower jaw with cracked tooth that is tender to 
palpation. No pus or swelling at the area. No areas of 
bruising/hematoma of chin/jaw. PERRL, EOMI, MMM 
LUNGS - CTA bilat, no r/rh/wh, good air movement 
HEART - RRR, no MRG, nl S1-S2 
ABDOMEN - Soft, mild tenderness to palpation of lower abdomen 
(right and lower), +BS 
EXTREMITIES - no c/c/e, 2+ peripheral pulses 
NEURO - A&Ox1, CNs II-XII grossly intact, muscle strength ___ 
throughout, sensation grossly intact throughout, gait not 
assessed 

DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM: 
VS: 98.4 135/70 78 16 98RA 
GENERAL: disheveled male, appears stated age, NAD, odd affect 
HEENT: Middle lower jaw with cracked tooth that is tender to 
palpation. No pus or swelling at the area. No areas of 
bruising/hematoma of chin/jaw. MMM 
LUNGS - CTAB
HEART - RRR, no MRG, nl S1-S2 
ABDOMEN - Soft, NTND +BS 
EXTREMITIES - no c/c/e, 2+ peripheral pulses 
NEURO - A&Ox1, CNs II-XII grossly intact, muscle strength ___ 
throughout, sensation grossly intact throughout, gait not 
assessed 

 
Pertinent Results:
ADMISSION LABS:
___ 03:40PM BLOOD WBC-17.7* RBC-4.73 Hgb-13.7* Hct-40.2 
MCV-85 MCH-29.0 MCHC-34.2 RDW-14.0 Plt ___
___ 03:40PM BLOOD Neuts-85.7* Lymphs-8.9* Monos-5.2 Eos-0 
Baso-0.3
___ 03:40PM BLOOD Glucose-274* UreaN-22* Creat-1.0 Na-134 
K-4.4 Cl-96 HCO3-24 AnGap-18
___ 03:40PM BLOOD ALT-23 AST-28 AlkPhos-159* TotBili-0.5
___ 03:40PM BLOOD Lipase-32
___ 03:40PM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:10AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.0
___ 03:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:37PM BLOOD Lactate-2.4*
===========================================

DISCHARGE LABS:
___ 06:00AM BLOOD WBC-10.3 RBC-4.14* Hgb-12.1* Hct-35.3* 
MCV-85 MCH-29.2 MCHC-34.2 RDW-14.3 Plt ___
___ 06:00AM BLOOD Glucose-122* UreaN-16 Creat-0.9 Na-138 
K-3.8 Cl-100 HCO3-28 AnGap-14
___ 06:00AM BLOOD Calcium-9.6 Phos-5.0* Mg-2.2

===========================================

URINE:
___ 10:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:00PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 10:00PM URINE RBC-0 WBC-2 Bacteri-FEW Yeast-NONE Epi-<1
URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 

===========================================

Blood cultures: negative for 48hours

===========================================

IMAGING from ___:
CXR: Supine AP portable view of the chest provided. Lung volumes 
are low. No definite consolidation or supine evidence of 
effusion or pneumothorax. The cardiomediastinal silhouette 
appears grossly within normal limits. No definite displaced rib 
fracture is seen. 

X-Ray Pelvis/Lumbar Spine: No fracture or malalignment in the 
lumbar spine. Intact appearance of the bony pelvis 

Non-Contrast Head CT: There is no evidence of acute hemorrhage, 
edema, mass, mass effect, or acute territorial infarction.  The 
ventricles and sulci are mildly prominent consistent with 
age-related atrophy.  There are mild periventricular and 
subcortical white matter hypodensities consistent with the 
sequela of chronic small vessel ischemic disease.  The 
visualized paranasal sinuses and mastoid air cells are well 
aerated.  No fracture. IMPRESSION: No acute intracranial process 


EKG: sinus, NA/NI, no acute ischemia 
===========================================

 
Brief Hospital Course:
___ with h/o psychosis admitted because of multiple falls, also 
vague complaints of abdominal discomfort and burning with 
urination.  

# S/P Mechanical Fall: Patient is poor historian and reports 
being pushed. Collateral info from group home, supports 
behavioral changes and mechanical fall. Story surrounding fall 
not consistent with syncope. Furthermore trops negative x2, EKG 
without changes. Telemetry monitoring without events.  No 
episodes of fall while inpatient.  He was able to walk with ___ 
with use of a cane. ___ recommended further therapy in his group 
home. 

# Psychosis: Per collateral info, prior to admission he was more 
lethargic than usual.  There was question of medication 
compliance as he administers his own meds independently.  He was 
continued on his home medications (CLozapine) and was 
interactive and appropriate during his admission.  Mental status 
returned to baseline (per collateral information).
  
#Dysuria: On presentation, he gave an inconsistent history of 
discomfort with urination. UA not convincing of UTI and urine 
culture only with genital flora contamination.  He was not 
treated with antibiotics.  No longer complained of pain with 
urination.  
 
CHRONIC ISSUES:  
# Diabetes:  He is typically on metformin and Lantus 70 units 
qam. He was started on Lantus 50 units qam and titrated up only 
to Lantus 55units daily with good effect.  He was discharged 
home on 55units qam to prevent possibility of hypoglycemia.  He 
was also restarted on metformin.   

#COPD: stable, he continued his home meds (fluticasone and 
tiotropium inhaler)  
  
# He was continued on the following home meds: 
-ranitidine 150mg BID  
-Aspirin 81mg po daily  
-Lisinopril 5mg po daily  
-Gemfibrozil 600 mg PO BID  
 
TRANSITIONAL ISSUES:
-He was discharged back home to the ___ Home
-Full Code
-___ for ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Clozapine 200 mg PO BID 
3. Clozapine 75 mg PO HS 
in addition to 200mg BID 
4. Ranitidine 150 mg PO BID 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Aspirin 81 mg PO DAILY 
7. Lisinopril 5 mg PO DAILY 
hold for SBP < 100 
8. Gemfibrozil 600 mg PO BID 
9. Acetaminophen 650 mg PO Q6H:PRN pain 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Glargine 70 Units Breakfast

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Clozapine 200 mg PO BID 
4. Clozapine 75 mg PO HS 
in addition to 200mg BID 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Gemfibrozil 600 mg PO BID 
8. Glargine 55 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
9. Lisinopril 5 mg PO DAILY 
hold for SBP < 100 
10. Ranitidine 150 mg PO BID 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: mechanical fall
Secondary: 
psychosis, diabetes, COPD.

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure to care for you at ___.  You were admitted 
for a fall and question of confusion.  Your mental status 
improved during your hospitalization and you were treated with 
your home antipsychotic medications.  We had our physical 
therapists see you in the hospital and they determined that you 
would benefit from continued physical therapy assesment and care 
in your group home.  
 
Followup Instructions:
___